US05521188
J. 4-Methyl-5-(1,2-dioxo-4-methyl-3-cyclobuten-3-yl)amino-3-(3-methanesulfonyloxy-propyl)-indole
To an ice-cold suspension of 4-methyl-5-(1,2-dioxo-4-methyl-3-cyclobuten-3-yl)amino-3-(3-hydroxypropyl)indole (0.235 g, 0.79 mmol) in 5 mL of acetonitrile-THF (4:1) was added triethylamine (0.132 mL, 0.95 mmol), followed by methanesulfonyl chloride (0.074 mL, 0.95 mmol). The mixture was stirred at 0° C. for 2 h and then the cooling bath was removed and stirring continued at room temperature for 17 h. Another 0.026 mL (0.19 mmol) of triethylamine and 0.015 mL (0.19 mmol) of methanesulfonyl chloride were then added and stirring was continued for 30 min. The resulting mixture was diluted with ethyl acetate, washed (H2O×2; brine), dried (Na2SO4) and evaporated to give a gum. This material was chromatographed (SiO2 /ethyl acetate-dichloromethane, 1:1) to give to give the title compound (0.270 g, 91%) as an off-white foam. An analytical sample was obtained by crystallization from ether to give an off-white solid, mp 130°-131° C. (dec): IR (KBr) 3240 (br), 1792, 1727, 1590, 1330, 920 cm-1 ; 1H NMR (DMSO-d6, 200 MHz) δ 11.01 (br s, 0.75H), 10.95 (br s, 0.25H), 10.58 (s, 0.75H), 10.31 (s, 0.25H), 7.23-7.13 (m, 2H), 6.94 (d, J=8.5 Hz, 0.75H), 6.88 (d, J=8.6 Hz, 0.25H), 4.29 (t, J=6.3 Hz, 2H), 3.19 (s, 3H), 2.96 (m, 2H), 2.50 (s, 3H), 2.24 (s, 0.75H), 2.02 (m, 2H), 1.56 (s, 2.25H). Anal. Calcd for C18H20N2O5S: C, 57.43; H, 5.36; N, 7.44. Found: C, 57.16; H, 5.00; N, 7.34.

reactant | 4-methyl-5-(1,2-dioxo-4-methyl-3-cyclobuten-3-yl)amino-3-(3-hydroxypropyl)indole | 0.79 mmol, 0.235 g | CC1=C2C(=CNC2=CC=C1NC=1C(C(C1C)=O)=O)CCCO | C17H18N2O3
reactant | triethylamine | 0.95 mmol, 0.132 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.95 mmol, 0.074 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.19 mmol, 0.026 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.19 mmol, 0.015 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile THF | 5 mL | C(C)#N.C1CCOC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-5-(1,2-dioxo-4-methyl-3-cyclobuten-3-yl)amino-3-(3-methanesulfonyloxy-propyl)-indole | 0.270 g, 91% | CC1=C2C(=CNC2=CC=C1NC=1C(C(C1C)=O)=O)CCCOS(=O)(=O)C | C18H20N2O5S
